US09056874B2
(±)-2-(1-(5,7-Dimethyl-1-tosyl-1H-indol-4-yl)-2-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
NaBH4 (518 mg, 13.7 mmol) was added to a solution of (±)-ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate (481 mg, 0.913 mmol) in MeOH (10 mL) at 23° C. The mixture was stirred at room temperature for 2 h. An additional aliquot of NaBH4 (1.03 g, 27.4 mmol) was added to the mixture. After 1 hr, sat. aq. NH4Cl was added and the resulting mixture was separated. The aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in heptane) to provide the title compound. MS (ESI+) m/z 485.2 (M+H).

reactant | NaBH4 | 13.7 mmol, 518 mg | [BH4-].[Na+]
reactant | (±)-ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)-2-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)acetate | 0.913 mmol, 481 mg | C(#N)C1=CC2=C(NC(=N2)C(C(=O)OCC)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C29H26N4O4S
reactant | NaBH4 | 27.4 mmol, 1.03 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 10 mL | CO | CH4O
product | (±)-2-(1-(5,7-Dimethyl-1-tosyl-1H-indol-4-yl)-2-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(CO)C1=NC2=C(N1)C=CC(=C2)C#N | C27H24N4O3S
